US07105558B2
Step c. 5-[4-(Adamantan-1-yloxy)-3-oxo-butyrylamino]-benzoic acid methyl ester.
A mixture of 5-[2-(adamantan-1-yloxy)-1-hydroxy-ethylidene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (27.27 g, 81.1 mmol), 3-amino-benzoic acid methyl ester (11.68 g, 77.2 mmol) and DMAP (cat.) in benzene (550 mL) was heated at reflux for 2 hours. The mixture was allowed to cool to room temperature. The solvent was removed by evaporation at reduced to give the crude product as a red oil. Purification by flash column chromatography (DCM:ethyl acetate 6:1) yielded the title compound as a yellow foam (20.34 g, 68%). 1H NMR (CDCl3) 9.22 (1H, br s), 8.08-8.07 (1H, t), 7.91-7.88 (1H, m), 7.81-7.77 (1H, m), 7.43-7.38 (1H, m), 4.14 (2H, s), 3.91 (3H, s), 3.74 (2H, s), 2.19 (3H, br s), 1.83-1.58 (12H, m).

reactant | 5-[2-(adamantan-1-yloxy)-1-hydroxy-ethylidene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 81.1 mmol, 27.27 g | C12(CC3CC(CC(C1)C3)C2)OCC(O)=C2C(OC(OC2=O)(C)C)=O | C18H24O6
reactant | 3-amino-benzoic acid methyl ester | 77.2 mmol, 11.68 g | COC(C1=CC(=CC=C1)N)=O | C8H9NO2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | benzene | 550 mL | C1=CC=CC=C1 | C6H6
product | 5-[4-(Adamantan-1-yloxy)-3-oxo-butyrylamino]-benzoic acid methyl ester | 20.34 g, 68% | COC(C1=CC=CC(=C1)NC(CC(COC12CC3CC(CC(C1)C3)C2)=O)=O)=O | C22H27NO5
